US08003653B2
N1-Benzyl-N-(tert-butoxycarbonyl)glycinamide
To a solution of N-(tert-butoxycarbonyl)glycine (20.00 g, 114.16 mmol) in DMF (75 mL) was added benzylamine (24.9 mL, 228.32 mmol). The solution was cooled to 0° C. and treated with EDC (43.77 g, 228.32 mmol) and HOAT (15.54 g, 114.16 mmol). The reaction was stirred at 0° C. for 10 min and at rt for 2 h. The solvent was removed in vacuo, and the resulting residue was partitioned between EtOAc, ice water, and saturated aqueous NaHCO3 solution. The layers were separated, and the organic extract was washed twice with water, once with 10% aqueous KHSO4 solution, twice more with water, and once with brine. The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo to afford the product as a white solid 1H NMR (400 MHz, CDCl3) δ 7.35-7.26 (m, 5H), 6.44 (br s, 1H), 5.14 (br s, 1H), 4.46 (d, J=6.0 Hz, 2H), 3.83 (d, J=6.0 Hz, 2H), 1.43 (s, 9H); ES MS (M+23)=287.

reactant | N-(tert-butoxycarbonyl)glycine | 114.16 mmol, 20.00 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | benzylamine | 228.32 mmol, 24.9 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | EDC | 228.32 mmol, 43.77 g
reactant | HOAT | 114.16 mmol, 15.54 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DMF | 75 mL | CN(C)C=O | C3H7NO
product | N1-Benzyl-N-(tert-butoxycarbonyl)glycinamide | C(C1=CC=CC=C1)N(C(CN)=O)C(=O)OC(C)(C)C | C14H20N2O3
